US06403610B1
0.3 g of (prop-2-ynyl) (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-(prop-2-ynyl)piperidine-3-carboxylate in 3 cm3 of dioxane and 1.48 cm3 of N sodium hydroxide were heated, with stirring, at a temperature in the region of 70° C. for 17 hours. The reaction mixture was concentrated under reduced pressure (5 kPa) at a temperature in the region of 50° C. 1.48 cm3 of normal aqueous hydrochloric acid were added to the solid residue obtained, followed by 10 cm3 of water. The solution obtained was extracted with 5 times 20 cm3 of dichloromethane. The organic extracts were combined and then concentrated under reduced pressure (5 kPa). 0.189 g of (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-(prop-2-ynyl)piperidine-3-carboxylic acid was obtained in the form of a foam with a white color.

reactant | (prop-2-ynyl) (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-(prop-2-ynyl)piperidine-3-carboxylate | 0.3 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CC#C)C(=O)OCC#C | C25H28N2O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 10 cm3 | O | H2O
solvent | dioxane | 3 cm3 | O1CCOCC1 | C4H8O2
product | (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-(prop-2-ynyl)piperidine-3-carboxylic acid | 0.189 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CC#C)C(=O)O | C22H26N2O3
